US06599902B2
(R)-2-Cyclopropylcarbamoyl-pyrrolidine-1-carboxylic acid benzyl ester (2.6 g) was hydrogenated using 5% Pd/C (260 mg) in methanol (25 mL). The filtrate was concentrated to give 1.1 g (79%) of (R)-pyrrolidine-2-carboxylic acid cyclopropylamide.

reactant | (R)-2-Cyclopropylcarbamoyl-pyrrolidine-1-carboxylic acid benzyl ester | 2.6 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)C(NC1CC1)=O | C16H20N2O3
solvent | methanol | 25 mL | CO | CH4O
catalyst | Pd/C | 260 mg | [Pd] | Pd
product | (R)-pyrrolidine-2-carboxylic acid cyclopropylamide | 1.1 g, 79% | C1(CC1)NC(=O)[C@@H]1NCCC1 | C8H14N2O
